US06528525B1
(e) Ethyl 2-(2-phenoxyethyl)-3-[4-[2-(tetrahydropyran-2-yl-oxy)ethoxy]phenyl]propionate
2-(2-bromoethoxy)tetrahydropyran (1.24 g) and potassium carbonate (1.09 g) were added to a solution of ethyl 2-(4-hydroxybenzyl)-4-phenoxybutyrate (620 mg), which is the product of Reference example 3(d), in 2-butanone (8 ml). The mixture was stirred at 100° C. for 5 hours. To the reaction mixture dimethylacetamide (10 ml) was added and the mixture was stirred at 100° C. for 1.5 hours. At the end of this time the reaction mixture was partitioned between ethyl acetate and water. The ethyl acetate layer was separated and washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate and then concentrated. The residue was purified via chromatography on a silica gel column using hexane/ethyl acetate=4/1 as the eluant to afford the desired compound (738 mg) as a syrup.

reactant | 2-(2-bromoethoxy)tetrahydropyran | 1.24 g | BrCCOC1OCCCC1 | C7H13BrO2
reactant | potassium carbonate | 1.09 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-(4-hydroxybenzyl)-4-phenoxybutyrate | 620 mg | OC1=CC=C(CC(C(=O)OCC)CCOC2=CC=CC=C2)C=C1 | C19H22O4
reactant | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
solvent | 2-butanone | 8 ml | CC(CC)=O | C4H8O
product | Ethyl 2-(2-phenoxyethyl)-3-[4-[2-(tetrahydropyran-2-yl-oxy)ethoxy]phenyl]propionate | 738 mg | O(C1=CC=CC=C1)CCC(C(=O)OCC)CC1=CC=C(C=C1)OCCOC1OCCCC1 | C26H34O6
